US08685974B2
N-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]propanamide (0.48 mmol) and bis(tricyclohexylphosphine)palladium(II) chloride (0.04 mmol) were weighed into a microwave vial (reaction volume 2-5 mL). A solution of 1-sec-butyl-3-(4-chloro-2-thienyl)-4-iodo-1H-pyrazole (0.40 mmol) in 3.0 mL degassed dioxane and 1.0 mL of a degassed 2 M aqueous sodium carbonate solution were added. The reaction mixture was purged with argon, the microwave vial was capped with a septum and transferred to a laboratory microwave oven. The reaction mixture was irradiated to a reaction temperature of 120° C. for 12 min. After cooling to room temperature, the reaction mixture was diluted with dioxane and filtered through a short pad of silica. The filtered solid was washed thoroughly with dioxane, ethyl acetate and dichloromethane. The combined filtrates were concentrated in vacuum. The residue was purified by chromatography on silica gel (cyclohexane:ethyl acetate 97:3 to 0:100) to afford 155 mg N-{4-[1-sec-butyl-3-(4-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridin-2-yl}propanamide (99% yield).

reactant | N-[4-(4,4,5,5-Tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-yl]propanamide | 0.48 mmol | CC1(OB(OC1(C)C)C1=CC(=NC=C1)NC(CC)=O)C | C14H21BN2O3
reactant | 1-sec-butyl-3-(4-chloro-2-thienyl)-4-iodo-1H-pyrazole | 0.40 mmol | C(C)(CC)N1N=C(C(=C1)I)C=1SC=C(C1)Cl | C11H12ClIN2S
reactant | sodium carbonate | 2 M | C([O-])([O-])=O.[Na+].[Na+]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | N-{4-[1-sec-butyl-3-(4-chloro-2-thienyl)-1H-pyrazol-4-yl]pyridin-2-yl}propanamide | 155 mg, 99% yield | C(C)(CC)N1N=C(C(=C1)C1=CC(=NC=C1)NC(CC)=O)C=1SC=C(C1)Cl | C19H21ClN4OS
